US05637439
13.0 g of N,N-diethyl-1,3-diaminopropane were added to 70 ml of diethyl oxalate with stirring at room temperature over a period of 20 minutes. After stirring at room temperature for 2 hours, excess diethyl oxalate was distilled off under reduced pressure to obtain 21.7 g of N,N-diethyl-N'-ethoxalyl-1,3-diaminopropane as an oily product. 6.90 g of this oily product and 3.99 g of 3-(2-methoxyethoxy)propylamine were dissolved in 30 ml of methanol and the solution was heated under reflux for 1 hour. The solvent was distilled off under reduced pressure to obtain 9.51 g of Compound B-1 as an oily product.

reactant | N,N-diethyl-1,3-diaminopropane | 13.0 g | C(C)N(CCCN)CC | C7H18N2
reactant | diethyl oxalate | 70 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
product | N,N-diethyl-N'-ethoxalyl-1,3-diaminopropane | 21.7 g | C(C)N(CCCNC(=O)C(=O)OCC)CC | C11H22N2O3
